US06977260B2
Sodium hydride (60% dispersion in oil, 35 mg, 0.88 mmol) was added to a solution of [3-(3-chlorophenyl)-2-oxopropyl]-phosphonic acid dimethyl ester (221 mg, 0.80 mmol) in THF (2.0 mL) at 0° C. After 1 h at 0° C., [4-((R)-2-formyl-6-oxo -piperidin-1-yl)-butoxy]-acetic acid ethyl ester (0.88 mmol, crude) in THF (2 mL) was added via cannula. The reaction was allowed to warm to rt. After 18 h at rt, the reaction was quenched with aqueous acetic acid (50%, 10 mL) and extracted with EtOAc (3×20 mL). The combined organic phase was washed with brine (25 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (20%→40% EtOAc/CH2Cl2, gradient) afforded 117 mg (34%) of (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-oxo-but-1-enyl]-6-oxo-piperidin-1-yl}-butoxy)-acetic acid ethyl ester.

reactant | Sodium hydride | 0.88 mmol, 35 mg | [H-].[Na+]
reactant | [3-(3-chlorophenyl)-2-oxopropyl]-phosphonic acid dimethyl ester | 0.80 mmol, 221 mg | COP(OC)(=O)CC(CC1=CC(=CC=C1)Cl)=O | C11H14ClO4P
reactant | [4-((R)-2-formyl-6-oxo -piperidin-1-yl)-butoxy]-acetic acid ethyl ester | 0.88 mmol | C(C)OC(COCCCCN1[C@H](CCCC1=O)C=O)=O | C14H23NO5
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-oxo-but-1-enyl]-6-oxo-piperidin-1-yl}-butoxy)-acetic acid ethyl ester | 117 mg, 34% | C(C)OC(COCCCCN1[C@H](CCCC1=O)\C=C\C(CC1=CC(=CC=C1)Cl)=O)=O | C23H30ClNO5
